US06329405B1
(73a) N-[1-(3,4-Difluorophenyl)ethyl]-N-[(2-fluoro-5-nitrophenyl)-(4-methoxyphenyl)methyl]amine
Following a similar procedure to that described in Example (1a), 828 mg of 2-fluoro-5-nitrophenyl 4-methoxyphenyl ketone, 1.16 g of 1-(3,4-difluorophenyl)ethylamine hydrochloride, 2.52 ml of triethylamine, 0.40 ml of titanium tetrachloride, 840 mg of sodium cyanoborohydride and 0.62 ml of acetic acid were reacted, to obtain 860 mg of the title compound as a yellow oil.

reactant | 2-fluoro-5-nitrophenyl 4-methoxyphenyl ketone | 828 mg | COC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])F | C14H10FNO4
reactant | 1-(3,4-difluorophenyl)ethylamine hydrochloride | 1.16 g | Cl.FC=1C=C(C=CC1F)C(C)N
reactant | triethylamine | 2.52 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 840 mg | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 0.40 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 0.62 ml | C(C)(=O)O | C2H4O2
product | N-[1-(3,4-Difluorophenyl)ethyl]-N-[(2-fluoro-5-nitrophenyl)-(4-methoxyphenyl)methyl]amine | 860 mg | FC=1C=C(C=CC1F)C(C)NC(C1=CC=C(C=C1)OC)C1=C(C=CC(=C1)[N+](=O)[O-])F | C22H19F3N2O3
